US06900244B2
Step 1 Ethyl 1-phenylpiperidine-2-carboxylate
Triphenylbismuth diacetate (2 g, 3.5 mmol) and copper(II) acetate (58 mg, 0.3 mmol) were added to a solution of ethyl pipecolinate in CH2Cl2 (16 mL). After stirring 18 h at ambient temperature, the mixture was diluted with water and extracted with several portions of CH2Cl2. The combined organics were washed with water and dried (MgSO4). Concentration in vacuo afforded a colorless oil (850 mg, crude). MS (ES+) m/z 234 (MH+).

reactant | Triphenylbismuth diacetate | 3.5 mmol, 2 g | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl pipecolinate | N1C(C(=O)OCC)CCCC1 | C8H15NO2
solvent | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | copper(II) acetate | 0.3 mmol, 58 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | Ethyl 1-phenylpiperidine-2-carboxylate | C1(=CC=CC=C1)N1C(CCCC1)C(=O)OCC | C14H19NO2
